US06589970B2
Step 5: 3-Butyl-benzofuran-2-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide.
A mixture of 3-butyl-benzofuran-2-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide (1.90 g, 3.77 mmol), prepared in the previous step, sodium azide (735 mg, 11.3 mmol) and ammonium chloride (607 mg, 11.3 mmol) in 50 mL of DMF was stirred under nitrogen at 100° C. for 5 h. By TLC starting material remained. An additional 732 mg (11.3 mmol) of sodium azide was added and the stirring continued at 100° C. for 2 h. The reaction was diluted with 50 mL of water, made basic by the addition of 1 N NaOH and then extracted three times with ethyl acetate. The aqueous layer was acidified with 1 N HCl and the solid that formed was collected by filtration and dried under reduced pressure to give the title compound (1.17 g, 57%) as a light brown solid, mp 180-183° C.

reactant | 3-butyl-benzofuran-2-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide | 3.77 mmol, 1.90 g | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CN(C(=O)C=1OC2=C(C1CCCC)C=CC=C2)C | C27H25BrN2O3
reactant | sodium azide | 11.3 mmol, 735 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 11.3 mmol, 607 mg | [Cl-].[NH4+]
reactant | sodium azide | 11.3 mmol, 732 mg | [N-]=[N+]=[N-].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 3-Butyl-benzofuran-2-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide | 1.17 g, 57% | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CN(C(=O)C=1OC2=C(C1CCCC)C=CC=C2)C | C27H26BrN5O3
